US04670593
N-isopropyldichloroacetamide, 249.5 grams (2.94 mole), and 210 milliliters of phosphorous pentachloride, 306.5 grams (2.94 mole), was added and the mixture was stirred vigorously and heated at reflux until hydrogen chloride evolution ceased. The phosphorous oxychloride was stripped off at reduced pressure. Distillation at 4.5 millimeters gave 360 grams (65% yield) of N-isopropyldichloroacetimidoyl chloride, b.p. 63°-72° C.

reactant | N-isopropyldichloroacetamide | C(C)(C)NC(C(Cl)Cl)=O | C5H9Cl2NO
reactant | hydrogen chloride | Cl | ClH
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | phosphorous pentachloride | 210 milliliters | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | N-isopropyldichloroacetimidoyl chloride | 360 grams, 65% yield | C(C)(C)N=C(C(Cl)Cl)Cl | C5H8Cl3N
